US06310056B1
A solution of 3-methylimidazo[5,1-b]thiazole (513.2 mg) in anhydrous THF (8 ml) was cooled to −78° C. under the atmosphere of argon, and a 1.6 N solution of n-butyl lithium in n-hexane (2.47 ml) was added dropwise. After the reaction was stirred at the same temperature for 1 hour, 1.06 ml of tri-n-butylstannyl chloride was added, and the mixture was further stirred at the same temperature for 1 hour and then for 30 minutes during which the mixture was allowed to be warmed to room temperature. The reaction mixture was diluted with 50 ml of a semi-saturated aqueous ammonium chloride solution, and extracted with 50 ml of diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was then removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give 2-(tri-n-butylstannyl)-3-methylimidazo[5,1-b]thiazole in a yield of 1.44 g.

reactant | 3-methylimidazo[5,1-b]thiazole | 513.2 mg | CC=1N2C(SC1)=CN=C2 | C6H6N2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | tri-n-butylstannyl chloride | 1.06 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | n-hexane | 2.47 ml | CCCCCC | C6H14
solvent | ammonium chloride | 50 ml | [Cl-].[NH4+]
product | 2-(tri-n-butylstannyl)-3-methylimidazo[5,1-b]thiazole | C(CCC)[Sn](C1=C(N2C(S1)=CN=C2)C)(CCCC)CCCC | InChI=1S/C6H5N2S.3C4H9.Sn/c1-5-3-9-6-2-7-4-8(5)6;3*1-3-4-2;/h2,4H,1H3;3*1,3-4H2,2H3;
